Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
neck pain and UE weakness
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ with PMHx of aneurysm s/p clipping at ___ presenting to 
___ with neck pain s/p MVC. Pt reports she was involved in a 
MVC where she was restrained driver. She was rear-ended at low 
speed. No head strike. Initially asymptomatic, later that 
evening she developed neck pain with bilateral shoulder pain 
with paresthesias and sharp pain to arms bialterally. The 
patient reports the pain starts in her neck and radiates to 
upper extremities bilaterally. She has associated tingling 
sensation in her tips of middle fingers bilaterally. Also has 
mild L spine pain. She denies any fecal or urinary incontinence. 
Denies nausea/vomiting, headache. CT of L spine and C-spine did 
not reveal any fractures or subluxation. CT head was negative 
for bleed. Spine surgery consulted due to concern that patient 
may have spinal cord injury, however, it was unknown if the 
patient has MRI compatible aneurysm clip.
  

 
Past Medical History:
 PMH/PSH:
Depression
Hypertension
Hyperlipidemia
Cerebral aneurysm s/p clipping at ___ about ___ years ago
 
Social History:
SOCIAL:  Disabled due to depression (per pt report). Denies 
alcohol, tobacco, illicits
 
Physical Exam:
PHYSICAL EXAMINATION:

Vitals: T: 97.6   BP: 169/84  P: 58    RR: 16 99% RA

General: AAOx3, NAD, C-collar in place
Heart: RRR peripherally
Lungs: Breathing comfortably on RA
  
Spine exam: Tenderness over midline C-spine. 
  
-Motor Exam: (0=total paralysis, 1=palpable contraction 2=AROM, 
not against gravity, 3=AROM against gravity, 4=AROM against 
gravity +some resistance, 5=AROM against full resistance)
  
 Motor Upper Extremities:
C5 (shoulder abduction, elbow flex palm up): R ___    L ___ 
C6 (elbow flexion w/thumbs up, wrist ext):   R ___    L ___ 
C7 (elbow extension, wrist flexion):         R ___    L ___ 
C8 (finger flexion):                         R ___    L ___ 
T1 (finger abduction):                       R ___    L ___ 
  
 Motor Lower Extremities
L2/L3 (hip flexion, hip adduction - IO):   R ___    L ___ 
L3/L4 (knee extension - Quads):            R ___    L ___ 
L4/L5 (ankle dorsiflexion - TA):           R ___    L ___ 
L5 (great toe extension - ___:            R ___    L ___ 
S1 (ankle plantarflexion - GSC):           R ___    L ___ 
S2 (toe flexion - FHL, FDL):               R ___    L ___
  
  
-Sensory: (0=absent, 1=impaired,  2= intact)
 Sensory Upper Extremities
C5 (Ax):            R  2  L 2
C6 (MC):            R  2  L 2
C7 (Mid finger):    R  1  L 1 
C8 (MACN):          R  2  L 2
T1 (MBCN):          R  2  L 2
T2-L2 Trunk:        R  2  L 2
  
 Sensory Lower Extremities
L2 (Groin):          R 2   L 2
L3 (Leg)             R 2   L 2
L4 (Knee)            R 2   L 2
L5 (Grt Toe):        R 2   L 2
S1 (Sm toe):         R 2   L 2
S2 (Post Thigh):     R 2   L 2

Deep Tendon Reflexes: (0=absent, 1=trace, 2=normal, 3=brisk, 
4=non-sustained clonus, 5=sustained clonus)

Reflexes

Bic(C4-5)         R 3    L 3
BR(C5-6)          R 3    L 3
Tri(C6-7)         R 3    L 3
Pat(L3-4)         R 3    L 3
Ach(L5-S1)        R 3    L 3

___: Negative
Babinski: downgoing
Clonus: none
Perianal sensation: intact 
Rectal tone: Deferred
  
Orthopaedic Specific imaging:
CT L-Spine and C-Spine: No acute fracture or traumatic 
subluxation
CT-Tspine: Pending

Discharge Physical Exam
 AVSS
 CV:RRR
 Resp:CTAB
 Abd:soft,ntnd,+bs's
 Well appearing, NAD, comfortable
 BUE: SILT C5-T1 dermatomal distributions
 LUE: 4+/5 Del/Tri/Bic/WE/WF/FF/IO, 4+RUE Del/Tri/Bic/WE/WF/IO, 
___ RUE FF
 All fingers WWP, brisk capillary refill, 2+ distal pulses
 BLE: SILT L1-S1 dermatomal distributions
 BLE: ___ ___
 All toes WWP, brisk capillary refill, 2+ distal pulses
 
Pertinent Results:
___ 08:00PM BLOOD WBC-3.5* RBC-3.91 Hgb-12.0 Hct-34.6 
MCV-89 MCH-30.7 MCHC-34.7 RDW-12.1 RDWSD-39.1 Plt ___
___ 08:00PM BLOOD Neuts-44.0 ___ Monos-8.8 Eos-0.6* 
Baso-0.3 Im ___ AbsNeut-1.56* AbsLymp-1.63 AbsMono-0.31 
AbsEos-0.02* AbsBaso-0.01
___ 08:00PM BLOOD Plt ___
___ 08:00PM BLOOD ___ PTT-29.6 ___
___ 08:00PM BLOOD Glucose-101* UreaN-9 Creat-0.5 Na-139 
K-3.8 Cl-103 HCO3-24 AnGap-16
___ 08:00PM BLOOD Calcium-9.4 Phos-3.4 Mg-1.8
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service for 
concern of neck pain and mild upper extremity weakness. workup 
revealed no acute injuries. However due to a pmh of aneurysm 
clipping, an MRI cannot be obtained. A CT Myelogram is 
recommended for better visualization of her c-spine. She will 
need to not take her antidepressant (Venlafaxine) medication for 
at least 48 hour prior to her CT Myelogram study. She needs to 
continue wearing a c-collar at all times. During her short stay, 
her neck pain was minimal and her UE weakness essentially 
resolved. Pnemoboots were used for DVT prophylaxis. The patient 
was tolerating oral pain medications and tolerating PO diet. She 
was voiding independently. She was mobilizing oob independently. 
Hospital course was otherwise unremarkable. On the day of 
discharge the patient was afebrile with stable vital signs, 
comfortable on oral pain control and tolerating a regular diet. 
She will return on ___ for her CT Myelogram Study. 

CT Myelogram on ___:
Please to ___ ___ Floor, Radiology 
Reception Desk
Please arrive at 9:30am for check in
Please do not eat past midnight
You may drink water until 6:30am. Please do not drink water 
until 3 hours prior to your appointment.
You will need to stay for at least 2 hours after your test.
You will also need an escort home. 
The Procedures scheduler (___ will call you to get a 
prior authorization if needed. Otherwise please arrive on 
___ for your CT Myelogram. Please contact the scheduler at 
___ for any problem. You may also call ___, RN in 
Radiology department with any questions or concerns about your 
test. 
Please call ___ for ___ follow up with Dr. 
___ you have completed your CT Myelogram.
 
Medications on Admission:
Atenolol
Simvastatin
Venlafaxine
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Atenolol 50 mg PO DAILY home dose 
3. Simvastatin 80 mg PO QPM home dose 
4. Venlafaxine 150 mg PO DAILY home dose (Please do not take for 
at least 48 hours prior to your CT myelogram) 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*10 Tablet Refills:*0
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN Pain 
please do not operate heavy machinery, drink alcohol or drive 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
neck pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
CT C-spine revealed no acute fracture or dislocation. However, 
given mild upper extremity weakness and neck pain, a CT 
myelogram is needed to get a better visualization of your 
c-spine. We are unable to get an MRI due to your history of 
aneurysm clipping. You will need to be off your antidepressant 
(Venlafaxine) medication for 48 hours. Please return to ___ 
tomorrow for your scheduled CT Myelogram.  The ___ radiology 
department coordinator will be contacting you for your CT 
Myelogram time if one has not been scheduled already. If they do 
not contact you please contact the ___ Radiology Department at 
___ if there are any concerns.

Immediately after discharge:

•                Activity: You should not lift anything greater 
than 10 lbs. You will be more comfortable if you do not sit in a 
car or chair for more than ~45 minutes without getting up and 
walking around.
You can walk as much as you can tolerate.  

•                Cervical Collar / Neck Brace: You have been 
given a collar as a precaution to keep your spine stabilized 
until you are able to get your CT Myelogram. You may remove the 
collar for hygiene but please, limit your motion of your neck 
while the collar is off. You should wear the collar when 
walking.

•                You should not take your antidepressant 
medication as this will interfere with your scheduled test. It 
requires you to not take this medication for 48 hours. Your last 
stated time you took your medication was on the am of ___. 
You may resume taking your atenolol and simvastatin as you 
normally do.  

•                Follow up:            
Please make sure you return for your CT Myelogram on ___ and 
continue to wear your c-collar at all times. 
 
Followup Instructions:
___